US05912247
Trifluoroacetic acid (10 ml) is added to 2-[4-(t-butoxycarbonyl)piperazin-1-yl]-4-[(3-hydroxycyclopentan-1-yl)oxy] quinazoline (0.95 g), and the mixture is stirred at room temperature for 30 minutes. The reaction mixture is evaporated to dryness under reduced pressure, and the resulting residue is dissolved in ethyl acetate. The solution is washed with aqueous sodium hydrogen carbonate solution and then with water, and dried over anhydrous sodium sulfate, and then is evaporated to dryness under reduced pressure to give 4-[(3-hydroxycyclopentan-1-yl)oxy]-2-(1-piperazinyl)quinazoline (0.55 g).

reactant | 2-[4-(t-butoxycarbonyl)piperazin-1-yl]-4-[(3-hydroxycyclopentan-1-yl)oxy] quinazoline | 0.95 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)OC1CC(CC1)O | C22H30N4O4
solvent | Trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[(3-hydroxycyclopentan-1-yl)oxy]-2-(1-piperazinyl)quinazoline | 0.55 g | OC1CC(CC1)OC1=NC(=NC2=CC=CC=C12)N1CCNCC1 | C17H22N4O2
